US05539114
A solution of p-chlorophenyl isocyanate (15.3 g, 0.10 mol) in toluene (50 ml) is metered at room temperature into a solution of methyl anthranilate (15.1 g, 0.10 mol) in toluene (100 ml). After addition is complete, the mixture is stirred at 90° C. for 2 hours. 1.80 ml of a 30% strength solution of methanolic sodium methoxide (0.010 mol) are metered in and the mixture is stirred at 90° C. for a further 1 hour, methanol being distilled off. After cooling, the product is filtered off with suction and washed with 3×20 ml of toluene. The toluene-moist precipitate is treated with dilute sulfuric acid and the residual toluene is removed by azeotropic distillation. The product is then filtered off with suction, washed with water and dried. 26.8 g of 3-(4-chlorophenyl)-2,4(1H,3H)-quinazolinedione (yield: 98.3% of theory) of melting point 290° to 292° C. are obtained.

reactant | p-chlorophenyl isocyanate | 0.10 mol, 15.3 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | methyl anthranilate | 0.10 mol, 15.1 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | sodium methoxide | 0.010 mol | C[O-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-2,4(1H,3H)-quinazolinedione | 26.8 g, yield: 98.3% | ClC1=CC=C(C=C1)N1C(NC2=CC=CC=C2C1=O)=O | C14H9ClN2O2
